US08067408B2
3-[({[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoic Acid
Methyl 3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoate (0.466 g, 1 mmol), lithium hydroxide (0.237 g, 10 mmol), THF (30 mL), and water (10 mL) were combined and stirred under argon at room temperature overnight. Solvents were pumped off, and the residue taken up in ethyl acetate and water. The mixture adjusted to pH 2.5 with HCl, and extracted with a large volume of ethyl acetate. Organic phases were dried over anhydrous Na2SO4, filtered, and concentrated to afford the title compound as a white solid. LC-MS m/z 451.8 (M+H)+, 1.37 min (ret time).

reactant | Methyl 3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoate | 1 mmol, 0.466 g | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C(=O)OC)C=CC2)CC | C25H31N5O4
reactant | lithium hydroxide | 10 mmol, 0.237 g | [OH-].[Li+]
reactant | THF | 30 mL | C1CCOC1 | C4H8O
reactant | HCl | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | water | 10 mL | O | H2O
product | 3-[({[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoic Acid | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C(=O)O)C=CC2)CC | C24H29N5O4
